US04497813
A mixture of 50 ml of dioxan and 500 ml of concentrated ammonia solution is added to 21.5 g of 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethylamino]-3-(3-hydroxy-4-methoxycarbonylphenoxy)propan-2-ol. The reaction mixture is stirred for 1-2 hours, and as soon as it is homogeneous, left to stand for 3 days at 20°-30°. By concentration by evaporation, 20 g of crude, crystalline 1-(4-carbamoyl-3-hydroxyphenoxy)-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethylamino]propan-2-ol is obtained as a diastereoisomeric mixture having a melting point of 180°-190°. A hydrochloride is formed which melts at 238°-243° (from ethanol/methanol).

reactant | ammonia | 500 ml | N | H3N
reactant | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethylamino]-3-(3-hydroxy-4-methoxycarbonylphenoxy)propan-2-ol | 21.5 g | C(N)(=O)C=1C=C(OCC(C)NCC(COC2=CC(=C(C=C2)C(=O)OC)O)O)C=CC1O | C21H26N2O8
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(4-carbamoyl-3-hydroxyphenoxy)-3-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethylamino]propan-2-ol | C(N)(=O)C1=C(C=C(OCC(CNC(COC2=CC(=C(C=C2)O)C(N)=O)C)O)C=C1)O | C20H25N3O7
